US05476850
1.39 g (10.0 mmol) of 4-fluoro-β-phenylethylamine are dissolved in 40 ml of pyridine, treated with a spatula tipful of dimethylaminopyridine and with a solution of 2.15 g (10.5 mmol) of 2-methoxy-5-chlorobenzoyl chloride. The reaction mixture is poured into cold dilute hydrochloric acid, and the precipitated product is filtered off with suction and dried. 4-Fluoro-β-phenylethyl-(2-methoxy-5-chlorobenzamide) is obtained as colorless crystals of melting point 85° C. The benzamide thus obtained is introduced into cold chlorosulfonic acid. After reaction is complete, the reaction mixture is poured onto ice, and the precipitate is filtered off with suction (melting point of the sulfonyl chloride: 118° C.) and dissolved in acetone. This solution is treated with excess, concentrated aqueous ammonia and, after the exothermic reaction has subsided, concentrated to a third of the original volume. The 2-methoxy-5-chloro-N-[5-(1-sulfonylamino-2-fluorophenyl)ethyl]benzamide forms colorless crystals which melt at 203° C. Heating of 2-methoxy-5-chloro-N-[5-(1-sulfonylamino-2-fluorophenyl)ethyl]benzamide in excess morpholine under reflux for three hours yields 2-methoxy-5-chloro-N-[5-(1-sulfonylamino-2-(4-morpholino)phenyl)ethyl]benzamide, which is isolated by column chromatography (silica gel 60, heptane/ethyl acetate gradient of 2:1 to 4:1). The product melts at 236° C.

reactant | 4-fluoro-β-phenylethylamine | 10.0 mmol, 1.39 g | FC1=CC=C(C=C1)CCN | C8H10FN
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 2-methoxy-5-chlorobenzoyl chloride | 10.5 mmol, 2.15 g | COC1=C(C(=O)Cl)C=C(C=C1)Cl | C8H6Cl2O2
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 4-Fluoro-β-phenylethyl-(2-methoxy-5-chlorobenzamide) | FC1=CC=C(C=C1)CCC=1C(=C(C(=O)N)C=C(C1)Cl)OC | C16H15ClFNO2
